US05639914
20.3 g (0.15 mol) of acetanilide, 73.1 g (0.18 mol) of 4,4'-diiodobiphenyl, 22.1 g (0.16 mol) of anhydrous potassium carbonate, 2.16 g (0.034 mol) of copper powder, and 35 ml of nitrobenzene were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 190° C. to 205° C. for 10 hours. The reaction product was then extracted with 200 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to dryness. The concentrate was then purified by column chromatography (carrier: silica gel; elute: 6/1 mixture of toluene and ethyl acetate) to obtain 40.2 g (yield: 64.8%) of N-(4'-iodo-4-biphenylyl)acetanilide. The melting point of the product was from 135.0° C. to 136.0° C.

reactant | acetanilide | 0.15 mol, 20.3 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 4,4'-diiodobiphenyl | 0.18 mol, 73.1 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.16 mol, 22.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 35 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.034 mol, 2.16 g | [Cu] | Cu
product | N-(4'-iodo-4-biphenylyl)acetanilide | 40.2 g, yield: 64.8% | IC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C(C)=O | C20H16INO
